US08633173B2
(4-Morpholin-4-yl-phenyl)-(8-pyridin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-amine
(4-Morpholin-4-yl-phenyl)-(8-pyridin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-amine was prepared from 8-Pyridin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine (100.0 mg, 0.4734 mmol) and 4-(4-Bromo-phenyl)-morpholine (160.0 mg, 0.6608 mmol) in an analogous manner to Step 2d. The title compound was isolated as yellow solid (0.035 g, 20%). MP=266-270° C. 1H NMR (400 MHz, CDCl3, δ, ppm): 9.54 (s, 1H), 8.86 (d, J=6.5 Hz, 1H), 8.75-8.70 (m, 2H), 8.23-8.20 (m, 2H), 8.04 (d, J=7.3 Hz, 1H), 7.62-7.57 (m, 2H), 7.14 (t, J=7.0 Hz, 1H), 6.96-6.90 (m, 2H), 3.76-3.72 (m, 4H), 3.05-3.00 (m, 4H). MS=373 (MH)+.

reactant | 8-Pyridin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | 0.4734 mmol, 100.0 mg | N1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(N2)N | C11H9N5
reactant | 4-(4-Bromo-phenyl)-morpholine | 0.6608 mmol, 160.0 mg | BrC1=CC=C(C=C1)N1CCOCC1 | C10H12BrNO
product | (4-Morpholin-4-yl-phenyl)-(8-pyridin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-amine | N1(CCOCC1)C1=CC=C(C=C1)NC1=NN2C(C(=CC=C2)C2=CC=NC=C2)=N1 | C21H20N6O
